US05157038
Preparation of 8-(2-chloronicotinoylcarbamoyl)-3-isopropyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane
5.8 g of oxalyl chloride are portionwise added to the solution of 6.2 g of 2-chloronicotinic acid amide in 150 ml of anhydrous 1,2-dichloroethane under stirring, then the reaction mixture is heated at 85° C. for 90 minutes. After cooling the mixture to 0° to 5° C. first 12.6 ml of triethylamine and then a solution of 8.4 g of 3-isopropyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane in 42 ml of anhydrous 1,2-dichloroethane are portionwise added while maintaining the temperature between 20° and 30° C. The reaction mixture is stirred at room temperature for an additional 30 minutes, then extracted with 200 ml of N sodium hydroxide solution and then with 100 ml of water. After combining the aqueous extract is acidified to a pH value of 5.5 to 6 by adding acetic acid and the mixture is extracted with 1,2-dichloroethane. The organic solution is washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue is recrystallized from ethanol to give the title compound in 54% yield, m.p.: 186°-188° C.

reactant | oxalyl chloride | 5.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloronicotinic acid amide | 6.2 g | ClC1=C(C(=O)N)C=CC=N1 | C6H5ClN2O
reactant | triethylamine | 12.6 ml | C(C)N(CC)CC | C6H15N
reactant | 3-isopropyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 8.4 g | C(C)(C)N1C(OC2(C1=C)CCNCC2)=O | C11H18N2O2
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 42 ml | ClCCCl | C2H4Cl2
product | 8-(2-chloronicotinoylcarbamoyl)-3-isopropyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 54% yield | ClC1=C(C(=O)NC(=O)N2CCC3(C(N(C(O3)=O)C(C)C)=C)CC2)C=CC=N1 | C18H21ClN4O4
